US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)naphthalene-1-sulfonamide (CJS 3694)
Method K was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and naphthalene-1-sulfonyl chloride to afford the title compound as a brown solid (32 mg, 57%). 1H-NMR (δ, ppm, DMSO-d6): 6.09 (d, 1H, HPy,5, J=6.0 Hz), 6.68 (m, 2H, Harom), 6.87 (d, 1H, Harom, J=8.5 Hz), 7.20 (ps t, 1H, Harom, J=8.0 Hz), 7.60 (ps t, 1H, Harom, J=7.5 Hz), 7.65-7.73 (m, 3H, Harom+Py,6), 8.08 (d, 1H, Harom, J=8.0 Hz), 8.12 (d, 1H, Harom, J=7.5 Hz), 8.23 (d, 1H, Harom, J=8.5 Hz), 8.67 (d, 1H, Harom, J=8.5 Hz), 10.83 (s, 1H, NHSO2), 11.08 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.48, 108.98, 113.81, 114.02, 114.77, 124.06, 124.40, 127.03, 127.33, 128.21, 129.13, 129.97, 130.73, 133.74, 133.92, 134.60, 139.14, 141.21, 143.88, 147.15, 154.13, 155.01. HRMS (EI): m/z [M+H] calcd for C22H17N4O4S: 433.0971; found: 433.0969.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | naphthalene-1-sulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)naphthalene-1-sulfonamide | 32 mg, 57% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NS(=O)(=O)C2=CC=CC3=CC=CC=C23)N1 | C22H16N4O4S
